US04238494
A solution of 2-(5-dimethylaminomethyl-2-furyl-methylthio)ethylamine (3 g, 0.014 mol) and 2-methylsulphinyl-3-nitropyrrole (2 g, 0.011 mol) in ethanol (50 ml) was refluxed for 7 days, and it was then evaporated to dryness. The residue was purified by elution from a column of silica gel with ethyl acetate-petroleum ether (b.p. 60-80°)(4:1) to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)-ethylamino]-3-nitropyrrole, m.p. 67--67°.

reactant | 2-(5-dimethylaminomethyl-2-furyl-methylthio)ethylamine | 0.014 mol, 3 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-methylsulphinyl-3-nitropyrrole | 0.011 mol, 2 g | CS(=O)C=1NC=CC1[N+](=O)[O-] | C5H6N2O3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)-ethylamino]-3-nitropyrrole | CN(C)CC1=CC=C(O1)CSCCNC=1NC=CC1[N+](=O)[O-] | C14H20N4O3S
